US07915271B2
Step D Methyl 2′-fluoro-5′-iodo-4′-methoxy-3-methylbiphenyl-4-carboxylate
methyl 2′-fluoro-4′-methoxy-3-methylbiphenyl-4-carboxylate (100 mg, 0.365 mmol), methanol (3 mL), iodide (93 mg, 0.366 mmol) and silver sulfate (114 mg, 0.366 mmol) were stirred at room temperature for 1.5 hours. Reaction crude was quenched by Na2SO3 (sat., aq.). Volatiles were removed from the grayish brown mixture. The pot residue was worked up with H2O/EtOAc/Na2SO4/filtration/concentration to afford the title compound. LCMS (ESI) calc.=400.00; found=400.96 (M+1)+.

reactant | methyl 2′-fluoro-4′-methoxy-3-methylbiphenyl-4-carboxylate | 0.365 mmol, 100 mg | FC1=C(C=CC(=C1)OC)C1=CC(=C(C=C1)C(=O)OC)C | C16H15FO3
reactant | iodide | 0.366 mmol, 93 mg | [I-]
catalyst | silver sulfate | 0.366 mmol, 114 mg | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | methanol | 3 mL | CO | CH4O
product | Methyl 2′-fluoro-5′-iodo-4′-methoxy-3-methylbiphenyl-4-carboxylate | FC1=C(C=C(C(=C1)OC)I)C1=CC(=C(C=C1)C(=O)OC)C | C16H14FIO3
